US06969709B2
Step 1: Preparation of {[1-(3-Benzyloxy-5-fluoro-benzyl)-2,3-dihydroxy-propylcarbamoyl]-methyl}-carbamic acid benzyl ester
To a solution of 3-amino-4-(3-benzyloxy-5-fluoro-phenyl)-butane-1,2-diol (5.60 g, 18.34 mmol, 1.00 eq.), triethylamine (5.11 mL, 36.68 mmol, 2.00 eq.) and anhydrous DMF (100 mL) at 0° C. is added Z-glycine N-succinimidyl ester (6.18 g, 20.17 mmol, 1.10 eq.) with stirring under N2. After 2 hours, the reaction is quenched with 1N HCl, extracted with ethyl acetate, and washed with 10% NaHCO3 and then brine. The organic layer is then dried with MgSO4, filtered through Celite, and concentrated in vacuo, yielding the crude product as a light amber oil. Purification via flash chromatography in 5% MeOH/CHCl3 (rf. 0.33, KMnO4 stain), affords the final product as a white solid (5.40 g., 59% yield overall). Calculate mass for C27H29FN2O6: 496.20. Mass found for C27H29FN2O6: (OAMS) ES+: 497.5 (M+1).

reactant | 3-amino-4-(3-benzyloxy-5-fluoro-phenyl)-butane-1,2-diol | 18.34 mmol, 5.60 g, 1.00 eq. | NC(C(CO)O)CC1=CC(=CC(=C1)F)OCC1=CC=CC=C1 | C17H20FNO3
reactant | triethylamine | 36.68 mmol, 5.11 mL, 2.00 eq. | C(C)N(CC)CC | C6H15N
reactant | Z-glycine N-succinimidyl ester | 20.17 mmol, 6.18 g, 1.10 eq. | C1CC(=O)N(C1=O)OC(=O)CNC(=O)OCC2=CC=CC=C2 | C14H14N2O6
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | {[1-(3-Benzyloxy-5-fluoro-benzyl)-2,3-dihydroxy-propylcarbamoyl]-methyl}-carbamic acid benzyl ester | 5.40 g, 59% yield | C(C1=CC=CC=C1)OC(NCC(NC(C(CO)O)CC1=CC(=CC(=C1)F)OCC1=CC=CC=C1)=O)=O | C27H29FN2O6
